US07329662B2
5-(4-Ethoxy-3-trifluoromethyl-phenyl)-3-(2-methyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
Reaction of 1-(4-ethoxy-3-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione (164 mg, 0.5 mmol), prepared from 4-ethoxy-3-trifluoromethyl-acetophenone (synthesis: see part acetophenone derivatives) according to general procedure A, and 3-amino-4-(2-methyl-4-pyridinyl)-pyrazole [see part synthesis of amino-pyrazole derivatives] (87 mg, 0.5 mmol) according to general procedure B yielded the title compound as a yellow solid (145 mg, 62%). MS (ISP) 467.2 [(M+H)+]; mp 250° C.

reactant | 1-(4-ethoxy-3-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 0.5 mmol, 164 mg | C(C)OC1=C(C=C(C=C1)C(CC(C(F)(F)F)=O)=O)C(F)(F)F | C13H10F6O3
reactant | 3-amino-4-(2-methyl-4-pyridinyl)-pyrazole | 0.5 mmol, 87 mg | NC1=NNC=C1C1=CC(=NC=C1)C | C9H10N4
product | 5-(4-Ethoxy-3-trifluoromethyl-phenyl)-3-(2-methyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 145 mg, 62% | C(C)OC1=C(C=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C2=CC(=NC=C2)C)C(F)(F)F | C22H16F6N4O
